US07348359B2
An aqueous saturated sodium bicarbonate solution (10 ml) and water (10 ml) was added to a solution of 1-thieno[2,3-c]pyridin-5-yl-ethanone (600 mg, 3.39 mmol) in carbon tetrachloride (5 ml). Bromine (0.523 ml, 10.2 mmol) was added and the reaction was stirred overnight. The biphasic mixture was allowed to separate and the organic layer was diluted with dichloromethane (25 ml) and washed with 10% sodium sulfide (in ammonium hydroxide) (1×20 mL), and brine (1×20 mL). The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was then purified by chromatography (chromatotron, 4μ plate, 0-200% ethyl acetate in hexanes) to yield 1-(3-bromo-thieno[2,3-c]pyridin-5-yl)-ethanone as a white solid (311.3 mg, 36%). 1H NMR (250 MHz, CDCl3): δ 9.20 (s, 1H), 8.54 (s, 1H), 7.30 (s, 1H), 7.30 (s, 1H), 2.85 (s, 3H). MS [E+] 255 & 257 (M+H)+.

reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
reactant | water | 10 ml | O | H2O
reactant | 1-thieno[2,3-c]pyridin-5-yl-ethanone | 3.39 mmol, 600 mg | S1C=CC=2C1=CN=C(C2)C(C)=O | C9H7NOS
reactant | Bromine | 10.2 mmol, 0.523 ml | BrBr | Br2
solvent | carbon tetrachloride | 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(3-bromo-thieno[2,3-c]pyridin-5-yl)-ethanone | 311.3 mg, 36% | BrC1=CSC2=CN=C(C=C21)C(C)=O | C9H6BrNOS
